US08106215B2
6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-(1S,2S,5R)-{3-[5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carbonyl]-3-aza-bicyclo[3.3.0]oct-2-ylmethyl}-amide
prepared by reaction of 6-methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-[(1S,2S,5R)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide with 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid.

reactant | 6-methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-[(1S,2S,5R)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | [C@H]12[C@H](NC[C@@H]2CCC1)CNC(=O)C1=C(N=C2SC=CN21)C | C15H20N4OS
reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)O | C11H8FNO2S
product | 6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-(1S,2S,5R)-{3-[5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carbonyl]-3-aza-bicyclo[3.3.0]oct-2-ylmethyl}-amide | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)N1[C@@H]([C@H]2CCC[C@H]2C1)CNC(=O)C1=C(N=C2SC=CN21)C | C26H26FN5O2S2
